US07351857B2
To 2-(2-aminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester (14.6 g; 47.4 mmol), dissolved in CH2Cl2 (100 mL), is added TEA (8.6 mL; 61.7 mmol) and the reaction mixture is cooled to 0° C. Acetyl chloride (4.1 mL; 57.6 mmol) is added dropwise at a rate to maintain the temperature between 0-5° C. The reaction was allowed to warm to RT, stirred for 16 h, diluted with CH2Cl2, washed with H2O, dried over Na2SO4 and evaporated under reduced pressure. The crude oil was purified by flash chromatography (SiO2) eluting with a hexanes-EtOAc gradient to afford 11.7 g (71%) of 2-(2-acetylaminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester as a beige solid.

reactant | 2-(2-aminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester | 47.4 mmol, 14.6 g | C(C)(C)(C)OC(C(C)(C)SC=1C=C2CC(CC2=CC1)N)=O | C17H25NO2S
reactant | Acetyl chloride | 57.6 mmol, 4.1 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-acetylaminoindan-5-ylsulfanyl)-2-methylpropionic acid tert-butyl ester | 11.7 g, 71% | C(C)(C)(C)OC(C(C)(C)SC=1C=C2CC(CC2=CC1)NC(C)=O)=O | C19H27NO3S
